US08383629B2
A vial was charged with (±)-(E)-2-(7-bromo-1′-(3-(2-(trifluoromethyl)phenyl)acryloyl)-2,3-dihydrospiro[indene-1,4′-piperidine]-3-yl)acetic acid (5 mg, 0.01 mmol), N,N′-dimethylethylenediamine (0.007 mL, 0.066 mmol), HOBt (3 mg, 0.02 mmol), i-Pr2NEt (0.006 mL, 0.032 mmol) and CH2Cl2 (1 mL). EDC.HCl (4 mg, 0.021 mmol) was added. The mixture was stirred at rt for 1 d and evaporated to dryness. The residue was purified by preparative HPLC to afford (±)-(E)-2-(7-chloro-1′-(3-(2-(trifluoromethyl)phenyl)acryloyl)-2,3-dihydrospiro[indene-1,4′-piperidine]-3-yl)-N-methyl-N-(2-(methylamino)ethyl)acetamide (1.0 mg, 14%). LC-MS Method 1 tR=1.55, min, m/z=548, 550.

reactant | (±)-(E)-2-(7-bromo-1′-(3-(2-(trifluoromethyl)phenyl)acryloyl)-2,3-dihydrospiro[indene-1,4′-piperidine]-3-yl)acetic acid | 0.01 mmol, 5 mg | BrC=1C=CC=C2C(CC3(CCN(CC3)C(\C=C\C3=C(C=CC=C3)C(F)(F)F)=O)C12)CC(=O)O | C25H23BrF3NO3
reactant | N,N′-dimethylethylenediamine | 0.066 mmol, 0.007 mL | CNCCNC | C4H12N2
reactant | HOBt | 0.02 mmol, 3 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | i-Pr2NEt | 0.032 mmol, 0.006 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | EDC.HCl | 0.021 mmol, 4 mg | CCN=C=NCCCN(C)C.Cl
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | (±)-(E)-2-(7-chloro-1′-(3-(2-(trifluoromethyl)phenyl)acryloyl)-2,3-dihydrospiro[indene-1,4′-piperidine]-3-yl)-N-methyl-N-(2-(methylamino)ethyl)acetamide | 1.0 mg, 14% | ClC=1C=CC=C2C(CC3(CCN(CC3)C(\C=C\C3=C(C=CC=C3)C(F)(F)F)=O)C12)CC(=O)N(CCNC)C | C29H33ClF3N3O2
